US04607030
(c) 4-(1,1-Dimethylethyl)-2-dimethylaminomethyleneaminosulfonylanisole
4.68 g (0.02 mole) of 3-(1,1-dimethylethyl)-6-methoxybenzenesulfonamide are dissolved in 50 ml of dimethylformamide, and 2.5 g (0.022 mole) of dimethylformamide dimethylacetal are added. The mixture is left to stand for 30 minutes at room temperature and is poured into ice water and the product is filtered off with suction.

reactant | 3-(1,1-dimethylethyl)-6-methoxybenzenesulfonamide | 0.02 mole, 4.68 g | CC(C)(C)C=1C=C(C(=CC1)OC)S(=O)(=O)N | C11H17NO3S
reactant | dimethylformamide dimethylacetal | 0.022 mole, 2.5 g | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(1,1-Dimethylethyl)-2-dimethylaminomethyleneaminosulfonylanisole | CC(C)(C)C1=CC(=C(C=C1)OC)S(=O)(=O)N=CN(C)C | C14H22N2O3S
